US08557826B2
Stir 1-bromo-4-pentafluorosulfanylbenzene (100 mg) together with bis(pinacolato)diboron (90 mg), potassium acetate (104 mg) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (43 mg) in DMF (2 ml) at 80° C. for 2 h. Allow the reaction mixture to cool, then add Na2CO3 (225 mg), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (43 mg), water (0.7 ml) and (S)-tert-butyl 4-(3-bromophenyl)-1,4-dimethyl-6-oxo-tetrahydropyrimidin-2(1H)-ylidenecarbamate (240 mg). Stir the mixture at 80° C. for 3 h. Allow the reaction mixture to cool, dilute with EtOAc (20 ml) and wash with water (2×5 ml). Dry the organic layer (MgSO4), filter and evaporate the filtrate. Chromatograph the residue on a silica gel column and elute with EtOAc/hexanes to afford the product, (S)-tert-butyl 4-(4′-pentafluorosulfanylbiphenyl-3-yl)-1,4-dimethyl-6-oxotetrahydropyrimidin-2(1H)-ylidenecarbamate.

reactant | 1-bromo-4-pentafluorosulfanylbenzene | 100 mg | BrC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H4BrF5S
reactant | bis(pinacolato)diboron | 90 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 104 mg | C(C)(=O)[O-].[K+]
reactant | Na2CO3 | 225 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (S)-tert-butyl 4-(3-bromophenyl)-1,4-dimethyl-6-oxo-tetrahydropyrimidin-2(1H)-ylidenecarbamate | 240 mg | BrC=1C=C(C=CC1)[C@]1(NC(N(C(C1)=O)C)=NC(OC(C)(C)C)=O)C | C17H22BrN3O3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 43 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 43 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | 0.7 ml | O | H2O
product | (S)-tert-butyl 4-(4′-pentafluorosulfanylbiphenyl-3-yl)-1,4-dimethyl-6-oxotetrahydropyrimidin-2(1H)-ylidenecarbamate | FS(C1=CC=C(C=C1)C1=CC(=CC=C1)[C@]1(NC(N(C(C1)=O)C)=NC(OC(C)(C)C)=O)C)(F)(F)(F)F | C23H26F5N3O3S
